US05223518
Step c: 4-Dimethylamino-α-[(4-pyridinyl)ethynyl]-benzenemethanol
Place 4-bromopyridine hydrochloride (0.78 g, 4 mmol), 4-dimethylamino-α-(ethynyl)-benzenemethanol (0.88 g, 5 mmol) and diethylamine (25 mL) under nitrogen atmosphere. Add bis(triphenylphosphine)palladium(II) chloride (140 mg) then copper(I) iodide (20 mg). Stir overnight at room temperature and filter. Evaporate the solvent in vacuo and filter through silica gel (2:1 ethyl acetate/hexane). Evaporate the solvent in vacuo and recrystallize (25% ethyl acetate/hexane) to yield 0.5 g of the title compound; mp 117° C.

reactant | 4-bromopyridine hydrochloride | 4 mmol, 0.78 g | Cl.BrC1=CC=NC=C1
reactant | 4-dimethylamino-α-(ethynyl)-benzenemethanol | 5 mmol, 0.88 g | CN(C1=CC=C(C=C1)C(O)C#C)C | C11H13NO
reactant | diethylamine | 25 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 20 mg | [Cu]I
product | 4-Dimethylamino-α-[(4-pyridinyl)ethynyl]-benzenemethanol | 0.5 g | CN(C1=CC=C(C=C1)C(O)C#CC1=CC=NC=C1)C | C16H16N2O
